US03933804
EXAMPLE 84: 1-Chloro-5-isopropoxy-2-pentene
13 g (0.24 mol) of butadiene are introduced at 10°-15° during the course of 1 1/2 hours and while stirring into a suspension of 0.8 g of newly melted zinc chloride in 21.7 g (0.2 mol) of chloromethyl-isopropylether. The mixture which has now turned yellow is stirred at 10° for 1 hour. After this period 20 cc of 10% sodium carbonate solution are added dropwise, 100 cc of benzene are added and the aqueous phase is separated in a separatory funnel. The benzene solution is washed with 10% sodium carbonate solution and subsequently with water, is dried with magnesium sulphate and evaporated at reduced pressure. The residue is distilled at 90 mm. B.P. of 1-chloro-5-isopropoxy-2-pentene: 110°-112°/90 mm. nD20 = 1.4408.

reactant | butadiene | 0.24 mol, 13 g | C=CC=C | C4H6
reactant | chloromethyl-isopropylether | 0.2 mol, 21.7 g | ClCOC(C)C | C4H9ClO
reactant | sodium carbonate | 20 cc | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzene | 100 cc | C1=CC=CC=C1 | C6H6
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 1-Chloro-5-isopropoxy-2-pentene | ClCC=CCCOC(C)C | C8H15ClO
